US04492710
(b) Methyl 3-amino-4-(4-methylphenyl)-5-dimethylaminomethyleneaminosulfonyl-benzoate
A solution of 28 g (0.07 mole) of methyl 4-(4-methylphenyl)-3-nitro-5-dimethylaminomethyleneaminosulfonyl-benzoate in 200 ml of dimethylformamide is hydrogenated with 3 g of Raney nickel at 50° and with hydrogen under a pressure of 50 atmospheres, for 10 hours in an autoclave. After filtering, the filtrate is introduced into ice-water and the precipitate is filtered off and recrystallized from dimethylformamide/MeOH.

reactant | methyl 4-(4-methylphenyl)-3-nitro-5-dimethylaminomethyleneaminosulfonyl-benzoate | 0.07 mole, 28 g | CC1=CC=C(C=C1)C1=C(C=C(C(=O)OC)C=C1S(=O)(=O)N=CN(C)C)[N+](=O)[O-] | C18H19N3O6S
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | Methyl 3-amino-4-(4-methylphenyl)-5-dimethylaminomethyleneaminosulfonyl-benzoate | NC=1C=C(C(=O)OC)C=C(C1C1=CC=C(C=C1)C)S(=O)(=O)N=CN(C)C | C18H21N3O4S
